US04198425
3-Acetoxy-3-methyl-7-(p-benzyloxyphenyl)-5-heptanolide
One hundred milligrams of 3-hydroxy-3-methyl-7-(p-benzyloxyphenyl)-5-heptanolide was dissolved in 0.1 ml of methylene chloride and 0.63 ml of acetic anhydride, 0.56 ml of triethylamine and 1.5 mg of N,N-dimethyl-4-pyridineamine were added thereto under cooling at 0° C. After allowing to stand under ice-cooling for 4 hours, the reaction mixture was poured into ice-water and the crystals thus precipitated were recrystallized from a mixture of ethyl acetate and n-hexane (1:10) affording 68 mg of the desired compound melting at 98°-101° C.

reactant | 3-hydroxy-3-methyl-7-(p-benzyloxyphenyl)-5-heptanolide | One hundred milligrams | OC1(CC(=O)OC(C1)CCC1=CC=C(C=C1)OCC1=CC=CC=C1)C | C21H24O4
reactant | triethylamine | 0.56 ml | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 0.63 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | methylene chloride | 0.1 ml | C(Cl)Cl | CH2Cl2
catalyst | N,N-dimethyl-4-pyridineamine | 1.5 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 3-Acetoxy-3-methyl-7-(p-benzyloxyphenyl)-5-heptanolide | 68 mg | C(C)(=O)OC1(CC(=O)OC(C1)CCC1=CC=C(C=C1)OCC1=CC=CC=C1)C | C23H26O5
